US06051712
40 mg (0.08 mmol) of tert-butyl (3SR,4RS,5RS)-4-(4-chloro-phenyl)-3-(1-ethyl-propyl)-5-(naphthalen-2-ylmethoxy)-piperidine-carboxylate were dissolved in 5 ml of dry methylene chloride and treated with 35 mg (0.16 mmol) of anhydrous zinc bromide in an analogous manner to the procedure described by A. Mann et al. in Synth. Comm. 19(18), 3139-3142 (1989). The reaction mixture was stirred at room temperature for 5 hours. For the working-up, the reaction mixture was evaporated under reduced pressure and the crude product obtained was purified by chromatography on silica gel using a 90:10:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 28 mg (86% of theory) of (3SR,4RS,5RS)-4-(4-chloro-phenyl)-3-(1-ethyl-propyl)-5-(naphthalen-2-ylmethoxy)-piperidine as a colourless oil; MS: 422 (M+H)+.

reactant | tert-butyl (3SR,4RS,5RS)-4-(4-chloro-phenyl)-3-(1-ethyl-propyl)-5-(naphthalen-2-ylmethoxy)-piperidine-carboxylate | 0.08 mmol, 40 mg | ClC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)C(CC)CC | C32H40ClNO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc bromide | 0.16 mmol, 35 mg | [Br-].[Zn+2].[Br-]
product | (3SR,4RS,5RS)-4-(4-chloro-phenyl)-3-(1-ethyl-propyl)-5-(naphthalen-2-ylmethoxy)-piperidine | 28 mg, 86% | ClC1=CC=C(C=C1)C1C(CNCC1OCC1=CC2=CC=CC=C2C=C1)C(CC)CC | C27H32ClNO
